US04230624
Into a spherical flask provided with a condenser, a dropping funnel and containing 2 moles of o-cresol, 2.4 moles of acetyl chloride are introduced in 15 minutes. The bath is kept at 110° C. until the release of hydrochloric acid is completed, i.e. after about 3 hours, and then the o-cresol acetate as obtained is distilled under vacuum:

reactant | o-cresol | 2 moles | C1(=CC=CC=C1O)C | C7H8O
reactant | acetyl chloride | 2.4 moles | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | Cl | ClH
product | o-cresol acetate | yield 95% | C(C)(=O)OC1=CC=CC=C1C | C9H10O2
